US05281742
Cyclopentyl bromide (4.07 g, 27.3 mmol) was added to an acetonitrile solution (50 ml) containing methyl N-(2-fluoro-4-chloro-5-hydroxyphenyl)carbamate (5.00 g, 22,8 mmol) and potassium carbonate (1.80 g, 13.0 mmol), and the mixture was heated under reflux for 4 hours. After reaction, the reaction liquid was cooled to room temperature, 1 N hydrochloric acid (50 ml) was added thereto, and this was extracted with ethyl acetate (50 ml ×2). The organic layer was washed with water and then dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was removed by distillation under reduced pressure to obtain methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate (5.56 g, 19.3 mmol). Yield: 84.8 %. m.p.: 120.0° to 123.0° C.

reactant | Cyclopentyl bromide | 27.3 mmol, 4.07 g | C1(CCCC1)Br | C5H9Br
reactant | methyl N-(2-fluoro-4-chloro-5-hydroxyphenyl)carbamate | 22,8 mmol, 5.00 g | FC1=C(C=C(C(=C1)Cl)O)NC(OC)=O | C8H7ClFNO3
reactant | potassium carbonate | 13.0 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate | 19.3 mmol, 5.56 g, Yield: 84.8 % | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(OC)=O | C13H15ClFNO3
